datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[Cl:20]>>[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[H:11][Cl:20],1.24967
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21],20.45976
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:11],57.4045
[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[C:16]([H:17])([H:18])[H:19]>>[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15].[H:8][C:16]([H:17])([H:18])[H:19],23.7442
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([C:15]([H:31])([H:32])[H:33])[c:16]1[c:17]([H:34])[c:18]([H:35])[c:19]([H:36])[c:20]([H:37])[c:21]1[H:38])[c:22]1[c:23]([H:39])[c:24]([H:40])[c:25]([H:41])[c:26]([H:42])[c:27]1[H:43])([H:28])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:28])([H:29])[H:30])([C:14]([C:15]([H:31])([H:32])[H:33])[c:16]1[c:17]([H:34])[c:18]([H:35])[c:19]([H:36])[c:20]([H:37])[c:21]1[H:38])[c:22]1[c:23]([H:39])[c:24]([H:40])[c:25]([H:41])[c:26]([H:42])[c:27]1[H:43])[H:5],45.1454
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5]([C:6]([S:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:11])[H:4].[C:5]([C:6]([S:7][H:13])[H:12])([H:8])([H:9])[H:10],72.8016
[C:0]([C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])([H:4])([H:5])[H:6].[O:11]([O:12][H:14])[H:13]>>[C:0]([C:1](=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:13])([H:4])([H:5])[H:6].[O:11][O:12][H:14],-16.86152
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16](=[C:17]([H:25])[H:26])[H:24])[C:18](=[C:19]([H:28])[H:29])[H:27])[H:23])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:14]([C:13](=[C:12]([H:20])[H:21])[H:22])[H:23])([C:16](=[C:17]([H:25])[H:26])[H:24])[C:18](=[C:19]([H:28])[H:29])[H:27])[H:5],32.0076
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[S:9])[H:10]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8](=[S:9])[H:10],53.9736
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([S:11][H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([S:11][H:16])[H:15],121.713
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([S:6][C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]1([H:18])[C:3]([H:19])([H:20])[C:4]([H:21])([H:22])[C:5]([H:23])([H:24])[S:6]1)([H:16])[H:17])([H:13])([H:14])[H:15].[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26],41.25424
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])([H:29])([H:30])[H:31]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:26]([C:25]([H:29])([H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])([H:11])([H:12])[H:13],24.5182
[H:0][H:1].[O:2][H:3]>>[H:0].[H:1][O:2][H:3],84.2448
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14](=[S:15])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13]([C:14](=[S:15])[H:18])([H:16])[H:17],21.7568
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[S:21]=[C:22]([C:23]([S:24][H:27])[H:26])[H:25]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:23]([C:22](=[S:21])[H:25])([S:24][H:27])[H:26],72.969
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[O:13][O:14][H:15]>>[H:9][O:13][O:14][H:15].[O:0]([c:1]1[c:2]([H:8])[c:3][c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7],120.9176
